US07235663B2
Preparation of 4-[1-(3,3,8,8,10,10-Hexamethyl-1,5-dioxa-9-aza-spiro[5.5]undec-9-yloxy)-ethyl]-phenol
A mixture of 8 g acetic acid 4-[1-(3,3,8,8,10,10-hexamethyl-1,5-dioxa-9-aza-spiro[5.5]undec-9-yloxy)-ethyl]-phenyl ester and 3.9 g potassium carbonate in 60 ml methanol is stirred for one hour at room temperature. The mixture is cooled to 0° C. and neutralized by adding 60 ml of 0.5 M hydrochloric acid. The white suspension is diluted with water (60 ml) and filtered through a buchner funnel. The residue is washed with water and dried in a vacuum oven at 50° C. A white solid having a melting point of 133–134° C. is obtained.

reactant | acetic acid 4-[1-(3,3,8,8,10,10-hexamethyl-1,5-dioxa-9-aza-spiro[5.5]undec-9-yloxy)-ethyl]-phenyl ester | 8 g | CC1(COC2(OC1)CC(N(C(C2)(C)C)OC(C)C2=CC=C(C=C2)OC(C)=O)(C)C)C | C24H37NO5
reactant | potassium carbonate | 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.5 M, 60 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 4-[1-(3,3,8,8,10,10-Hexamethyl-1,5-dioxa-9-aza-spiro[5.5]undec-9-yloxy)-ethyl]-phenol | CC1(COC2(OC1)CC(N(C(C2)(C)C)OC(C)C2=CC=C(C=C2)O)(C)C)C | C22H35NO4
